US04578107
Preparation of 1-methyl-3-(3,4-dichlorophenyl)-4-hydroxyimidazolidine-2-one
A 10.4 g (0.04 mole) quantity of 1-methyl-3-(3,4-dichlorophenyl)hydantoin was suspended in 80 ml of methanol. The suspension was cooled to 10° C. and 1.5 g of sodium borohydride was added thereto with stirring. After the addition, the mixture was stirred for 30 minutes and warmed to room temperature, followed by further agitation for 2 hours. After completion of the reaction, the reaction mixture was concentrated and water was added to the residue to deposit crystals. The crystals were filtered and recrystallized from ethanol, affording 9.2 g of white crystals in 88% yield.

reactant | 1-methyl-3-(3,4-dichlorophenyl)hydantoin | CN1C(=O)N(C(=O)C1)C1=CC(=C(C=C1)Cl)Cl | C10H8Cl2N2O2
reactant | sodium borohydride | 1.5 g | [BH4-].[Na+]
solvent | methanol | 80 ml | CO | CH4O
product | 1-methyl-3-(3,4-dichlorophenyl)-4-hydroxyimidazolidine-2-one | 9.2 g, 88% yield | CN1C(N(C(C1)O)C1=CC(=C(C=C1)Cl)Cl)=O | C10H10Cl2N2O2
